US05066671
To a slurry of 10.0 g (29.6 mmol) of ellagic acid dihydrate in 250 mL of pyridine was added 100 mL of acetic anhydride. The solution was heated to reflux for 3 hours. The hot solution was filtered and upon cooling, crystals formed. The crystals were filtered, washed with hexane, and vacuum dried to give 1.28 g (9.2%) of pure ellagic acid tetraacetate.

reactant | ellagic acid dihydrate | 29.6 mmol, 10.0 g | C1=C2C3=C(C(=C1O)O)OC(=O)C4=CC(=C(C(=C43)OC2=O)O)O | C14H6O8
reactant | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 250 mL | N1=CC=CC=C1 | C5H5N
product | ellagic acid tetraacetate | 1.28 g, 9.2% | CC(=O)OC=1C=C2C=3C=4C(=CC(=C(C4OC2=O)OC(=O)C)OC(=O)C)C(=O)OC3C1OC(=O)C | C22H14O12
